* CIP: NDA is required as of 08/29/2019
*****************************************************************************
*LM27762
*****************************************************************************
* (C) Copyright 2016, 2017 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                             
** TI and its licensors and suppliers make no warranties, either expressed                                           
** or implied, with respect to this model, including the warranties of                                                    
** merchantability or fitness for a particular purpose. The model is                                                      
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer.                                                                                         
*****************************************************************************
*
* Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM27762
* Date: 02FEB2017
* Model Type: Transient 
* Simulator:  PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM27762EVM
* EVM Users Guide: SNVU534–June 2016
* Datasheet: SNVSAF7 –FEBRUARY 2016
* Model Version: Final 1.1
*****************************************************************************
*****************************************************************************
*
* Updates:
*<Made below changes to the model>
*          1. Modified the model based on the Webench inputs.
*          
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
*Model Usage Notes:
*
*1.The following features have been modeled
*   a. Startup.
*   b. PFM Operation.
*   d. Load and Line transient response. 
*   e. PSRR response(LDO Only).
*   f. Dropout vs Iout variation(LDO Only).
*2. Temperature effects are not been modeled.
*3. Quiescent and Shutdown current are not been modeled.
****************************************************************************
.SUBCKT LM27762_TRANS Cn Cp CPOUT PGOOD EN_N EN_P VIN FB_N FB_P PAD OUT_N OUT_P GND
C_u3_C1         u3_VXX u3_N464380  {1/(6.28*RINP*POLE)}  
V_u3_V4         u3_N471870 0 {-VREF}
E_u3_u1_E1         u3_u1_VDROP 0 TABLE { V(u3_ILOAD, 0) } 
+ ( (-250m,43.5m)(-0.1m,0)(0,0m) )
E_u3_u1_ABM6         u3_u1_N592202 0 VALUE { IF(V(u3_VEN)> 0.6 & V(EN_OK) >
+  0.6, {VREF}, 0)    }
R_u3_u1_R3         u3_u1_N592202 u3_u1_N591968  {3.333e5*SQRT(ABS(TTRN))}
+  TC=0,0 
R_u3_u1_R5         u3_u1_N592506 u3_N464470  10 TC=0,0 
C_u3_u1_C1         0 u3_u1_N591968  {1e-6*SQRT(ABS(TTRN))}  
C_u3_u1_C3         0 u3_N464470  1n  
E_u3_u1_ABM4         u3_u1_N592434 0 VALUE { V(u3_u1_N591968)  
+ * (V(N17420728) + 1e-6)  
+ / ((V(N17420728)-V(u3_N464748)) + 1e-6)  }
V_u3_u1_V4         u3_u1_N592046 0 {UVLO}
R_u3_u1_R4         u3_u1_N592434 u3_u1_N591984  10 TC=0,0 
E_u3_u1_ABM5         u3_u1_N592506 0 VALUE { MAX(V(u3_u1_N591984),  
+ MIN(V(CPOUT) +V(u3_u1_VDROP), 0))   }
X_u3_u1_U2         u3_u1_N592046 CPOUT u3_u1_N591938 u3_VEN COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_u3_u1_C2         0 u3_u1_N591984  1n  
R_u3_u1_R2         0 u3_u1_N591984  1G  
V_u3_u1_V3         u3_u1_N591938 0 {UHYS}
R_u3_u1_R1         0 u3_u1_N591968  1G  
C_u3_C5         0 u3_N464458  1n  
R_u3_R5         u3_VZZ u3_N464824  {ROUT}  
X_u3_S2    EN_OK 0 CPOUT u3_N464380 NEG_LDO_u3_S2 
X_u3_F1    u3_N464572 u3_VZZ u3_N464458 u3_N464380 NEG_LDO_u3_F1 
V_u3_V5         u3_N471904 u3_FB1 90m
E_u3_ABM3         u3_FB1 0 VALUE { -V(FB_N)    }
C_u3_C6         0 u3_N464380  0.05u  
R_u3_R2         u3_N464470 u3_VXX  {PSRR*RINP}  
C_u3_C2         u3_VXX u3_N464470  {1/(6.28*PSRR*RINP*ZERO)}  
V_u3_Vload         u3_N464572 N17420728 0Vdc
R_u3_R6         u3_VYY u3_N464458  10 TC=0,0 
X_u3_U2         u3_N471904 u3_N471870 u3_N4718183 PGN COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_u3_ABM2         u3_N464748 0 VALUE { V(N17420728)-V(FB_N)    }
X_u3_H1    u3_N464824 u3_N464458 0 u3_ILOAD NEG_LDO_u3_H1 
R_u3_R1         u3_VXX u3_N464380  {RINP}  
V_u3_V3         u3_N4718183 0 18m
E_u3_ABM1         u3_VYY 0 VALUE { {MAX(V(u3_VXX), (V(u3_VZZ)+(ILIM*ROUT)))}   
+  }
X_U_SW_ARRAY_S14    PHI1 0 U_SW_ARRAY_N16769749 0 SWITCH_ARRAY_U_SW_ARRAY_S14 
V_U_SW_ARRAY_V16         CN U_SW_ARRAY_N16770141 0
X_U_SW_ARRAY_S15    PRECH_PULSE 0 CN 0 SWITCH_ARRAY_U_SW_ARRAY_S15 
R_U_SW_ARRAY_R8         U_SW_ARRAY_N16769525 U_SW_ARRAY_ILIM_COMP  1k  
C_U_SW_ARRAY_C3         0 U_SW_ARRAY_ILIM_COMP  1n  
V_U_SW_ARRAY_V18         U_SW_ARRAY_N16770015 0 1
V_U_SW_ARRAY_V14         U_SW_ARRAY_N16769811 U_SW_ARRAY_N16769379 0
G_U_SW_ARRAY_ABMII2         U_SW_ARRAY_N16770015 CP VALUE {
+  IF(V(PRECH_PULSE)>0.5,V(U_SW_ARRAY_CPUMP),0)    }
M_U_SW_ARRAY_M2         U_SW_ARRAY_IN- U_SW_ARRAY_N16769781
+  U_SW_ARRAY_N16769811 U_SW_ARRAY_N16769811 NMOS_SIMPLE           
V_U_SW_ARRAY_V21         U_SW_ARRAY_N16769781 U_SW_ARRAY_N16769811 1.55m
X_U_SW_ARRAY_S11    PHI1 0 U_SW_ARRAY_N16769379 CP SWITCH_ARRAY_U_SW_ARRAY_S11 
E_U_SW_ARRAY_ABM8         U_SW_ARRAY_N16769517 0 VALUE {
+  IF(V(CP)<(V(VIN)*0.73),85m,IF(V(CP)>(V(VIN)*0.73) &
+  V(CP)<(V(VIN)*0.87),30m,IF(V(CP)>(V(VIN)*0.87) & V(CP)<(V(VIN)*0.99),2m,0)))  
+   }
R_U_SW_ARRAY_R9         U_SW_ARRAY_N16769517 U_SW_ARRAY_CPUMP  10 TC=0,0 
X_U_SW_ARRAY_S12    PHI2 0 CP 0 SWITCH_ARRAY_U_SW_ARRAY_S12 
V_U_SW_ARRAY_V22         U_SW_ARRAY_N16769295 0 0Vdc
X_U_SW_ARRAY_U4         U_SW_ARRAY_N16769635 0 U_SW_ARRAY_N16769295
+  U_SW_ARRAY_N16769525 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U_SW_ARRAY_S13    PHI2 0 U_SW_ARRAY_N16770141 CPOUT
+  SWITCH_ARRAY_U_SW_ARRAY_S13 
M_U_SW_ARRAY_M1         VIN U_SW_ARRAY_IN+ U_SW_ARRAY_IN- U_SW_ARRAY_IN-
+  NMOS_SIMPLE           
C_U_SW_ARRAY_C4         U_SW_ARRAY_CPUMP 0  10n  TC=0,0 
R_U_SW_ARRAY_R6         U_SW_ARRAY_N16769635 VIN  1.37meg  
E_U_SW_ARRAY_E4         U_SW_ARRAY_IN+ U_SW_ARRAY_IN- VALUE {
+  IF(V(U_SW_ARRAY_ILIM_COMP)>0.5,SQRT(abs(1.7*(V(CPOUT)/(((0.75*V(CPOUT))/(-0.5))-0.7))/(-1000000))),1m)
+  }
V_U_SW_ARRAY_V15         U_SW_ARRAY_N16769749 CN 0
R_U_SW_ARRAY_R7         CPOUT U_SW_ARRAY_N16769635  1meg  
X_U_SW_ARRAY_U26         U_SW_ARRAY_N16769811 U_SW_ARRAY_IN- d_dback PARAMS:
V_Vcc         N17420728 OUT_N 0Vdc
E_ABM8         GG 0 VALUE { I(V_Vcc)    }
E_ABM4         CC 0 VALUE { -I(V_Vcc)    }
R_U2_CTRL_R11         U2_CTRL_N16891672 U2_CTRL_N16891702  {1/0.693} TC=0,0 
X_U2_CTRL_U25         U2_CTRL_N16891702 U2_CTRL_N16891672 d_d PARAMS:
X_U2_CTRL_U16         U2_CTRL_N16891702 PFM INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U2_CTRL_U10         U2_CTRL_UVLO U2_CTRL_N16785976 INV_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U2_CTRL_U18         U2_CTRL_N16785492 U2_CTRL_N16785976 SHDN OR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_U2_CTRL_V13         U2_CTRL_N16873560 0 16.5m
X_U2_CTRL_U9         EN_OK U2_CTRL_N16785492 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U2_CTRL_R10         CPOUT U2_CTRL_N16874208  1meg  
X_U2_CTRL_U5         U2_CTRL_N16877166 0 U2_CTRL_N16873560 U2_CTRL_N16891672
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U2_CTRL_R9         U2_CTRL_N16874208 VIN  1.032meg  
X_U2_CTRL_U2         VIN U2_CTRL_N16786076 U2_CTRL_N16786106 U2_CTRL_UVLO
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U2_CTRL_V9         U2_CTRL_N16786106 0 0.2
E_U2_CTRL_E2         U2_CTRL_N16877166 0 U2_CTRL_N16874208 0 1
V_U2_CTRL_V10         U2_CTRL_N16786076 0 2.6
C_U2_CTRL_C4         0 U2_CTRL_N16891702  1u  TC=0,0 
X_U23         OUT_N 0 d_d PARAMS:
C_C1         N16759829 0  1n  TC=0,0 
R_U8_R2         U8_N458404 U8_VXX  {PSRR1*RINP1}  
C_U8_C1         U8_VXX U8_N458354  {1/(6.28*RINP1*POLE1)}  
C_U8_C5         0 U8_N458392  1n  
R_U8_R5         U8_VZZ U8_N458392  {ROUT}  
X_U8_u1_U8         U8_u1_UVLO_OK U8_u1_EN_OK U8_ALL_OK AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_U8_u1_ABM13         U8_u1_N920720 0 VALUE { IF(V(U8_ALL_OK)>0.5,{VREF1},0)   
+  }
R_U8_u1_R2         0 U8_u1_N920362  1G  
X_U8_u1_U7         U8_u1_EN_OK POK d_d PARAMS:
E_U8_u1_ABM5         U8_u1_N920920 0 VALUE { MIN(V(U8_u1_N920362),  
+ MAX(V(VIN)-V(U8_u1_DROP), 0))   }
R_U8_u1_R5         U8_u1_N920310 U8_N458404  10 TC=0,0 
X_U8_u1_U2         VIN U8_u1_N920260 U8_u1_N9202103 U8_u1_UVLO_OK
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U8_u1_ABM4         U8_u1_N920836 0 VALUE { V(U8_u1_N920346)  
+ * (ABS(V(OUT_P)) + 1e-6)  
+ / (ABS(V(FB_P)) + 1e-6)  }
C_U8_u1_C3         0 U8_N458404  1n  
R_U8_u1_R3         U8_u1_N920720 U8_u1_N920346  {3.333e5*SQRT(ABS(TTRN1))}
+  TC=0,0 
R_U8_u1_R1         0 U8_u1_N920346  1G  
V_U8_u1_V3         U8_u1_N9202103 0 {UHYS1}
C_U8_u1_C1         0 U8_u1_N920346  {1e-6*SQRT(ABS(TTRN1))}  
V_U8_u1_V4         U8_u1_N920260 0 {UVLO1}
V_U8_u1_V5         U8_u1_N920920 U8_u1_N920310 0Vdc
X_U8_u1_U1         EN_P U8_u1_N920612 U8_u1_N920572 POK COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U8_u1_R4         U8_u1_N920836 U8_u1_N920362  10 TC=0,0 
C_U8_u1_C2         0 U8_u1_N920362  1n  
V_U8_u1_V1         U8_u1_N920572 0 {EHYS1}
R_U8_u1_R6         POK U8_u1_EN_OK  {260/0.693} TC=0,0 
V_U8_u1_V2         U8_u1_N920612 0 {VENB1}
E_U8_u1_E1         U8_u1_DROP 0 TABLE { V(U8_LOAD, 0) } 
+ ( (0,0m) (0.25,120m) )
C_U8_u1_C5         0 U8_u1_EN_OK  1u  
X_U8_U2         U8_N470627 U8_N470593 U8_N4705413 PGP COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
C_U8_C2         U8_VXX U8_N458404  {1/(6.28*PSRR1*RINP1*ZERO1)}  
E_U8_ABM1         U8_VYY 0 VALUE { {MIN(V(U8_VXX), (V(U8_VZZ)+(ILIM1*ROUT1)))} 
+    }
V_U8_Vload         U8_N458440 OUT_P 0Vdc
R_U8_R1         U8_VXX U8_N458354  {RINP1}  
V_U8_V3         U8_N4705413 0 18m
X_U8_S2    U8_ALL_OK 0 VIN U8_N458354 POS_LDO_U8_S2 
X_U8_F1    U8_VZZ U8_N458440 U8_N458354 U8_N458392 POS_LDO_U8_F1 
V_U8_V4         U8_N470593 0 {VREF1}
E_U8_ABM2         U8_LOAD 0 VALUE { I(V_U8_Vload)    }
C_U8_C6         0 U8_N458354  0.1u  
V_U8_V5         U8_N470627 FB_P 90m
R_U8_R6         U8_VYY U8_N458392  10 TC=0,0 
E_ABM9         N17559799 0 VALUE { IF(V(GG)<50u,1,0)    }
X_U16         N17527232 N17527696 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U21         N16759705 PFM N16759819 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM3         PHI2 0 VALUE { IF(V(PHI)>0.5 & V(EN_OK)>0.5,1,0)    }
E_ABM6         N17527232 0 VALUE { IF(V(X)<0.5 & V(Y) >0.5  | V(Z)>0.5,1,0)   
+  }
E_ABM2         PHI1 0 VALUE { IF(V(PHI2)<0.5 & V(EN_OK)>0.5,1,0)    }
X_U31         N17528633 N17521942 PG OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U22         N16759799 N16759829 PHI N16759875 SRLATCHRHP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
R_R3         GND 0  1m  
X_U26         POK EOK EP OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U15         N16759799 N16759705 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_S1    PG 0 PGOOD 0 LM27762_S1 
X_S2    N17559799 0 CPOUT 0 LM27762_S2 
R_R9         PAD 0  1m  
X_U29         N17527232 N17527696 N17528633 N17528769 SRLATCHRHP_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U24         PGN PGP Y OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U5_ABM7         PRECH_PULSE 0 VALUE { IF(V(U5_PI)>0.5 & V(EN_OK)<0.5,1,0)   
+  }
R_U5_R4         EOK U5_N16760810  {400/0.693} TC=0,0 
X_U5_U23         U5_N16760810 EOK d_d PARAMS:
X_U5_U2         EN_N U5_N16761210 U5_N16761146 EOK COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
R_U5_R5         EOK U5_N16760918  {120/0.693} TC=0,0 
C_U5_C2         0 U5_N16760918  1u  TC=0,0 
V_U5_V9         U5_N16761146 0 0.8
X_U5_U24         U5_N16760918 EOK d_d PARAMS:
V_U5_V12         U5_N16761210 0 1.2
E_U5_ABM4         EN_OK 0 VALUE { IF(V(U5_N16760810)>0.5,1,0)    }
E_U5_ABM6         U5_PI 0 VALUE { IF(V(U5_N16760918)>0.5,1,0)    }
C_U5_C1         0 U5_N16760810  1u  TC=0,0 
X_U28         Z EP N17521942 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_R10         N16759819 N16759829  10 TC=0,0 
X_U_osc_U131         U_osc_N16690266 U_osc_N16690364 U_osc_MUXCLK
+  COMP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U_osc_U134         SHDN U_osc_N16690380 U_osc_N16690352 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_U_osc_V46         U_osc_N16690364 0 2.5
X_U_osc_U135         VIN U_osc_N16690808 freq_Current 
G_U_osc_G1         U_osc_N16690502 U_osc_N16690266 U_osc_N16690808 0 1
X_U_osc_S26    U_osc_N16690352 0 U_osc_N16690266 0 OSCILATOR_U_osc_S26 
V_U_osc_V45         U_osc_N16690502 0 5
X_U_osc_U136         N16759799 U_osc_N16690232 U_osc_MUXCLK U_osc_N16690232 0 0
+  DFFSR_RHPBASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
D_U_osc_D11         U_osc_N16690266 U_osc_N16690502 D_D1 
X_U_osc_U132         U_osc_N16690334 U_osc_N16690380 INV_DELAY_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY=5n
C_U_osc_C79         U_osc_N16690266 0  0.9134p  
X_U_osc_U133         U_osc_MUXCLK U_osc_N16690334 INV_DELAY_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5 DELAY=5n
X_U27         POK EOK X AND2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U25         PGP PGN Z AND2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
.IC         V(U_osc_N16690266 )=0
.IC         V(U_osc_MUXCLK )=0
.IC         V(U_osc_N16690334 )=1
.PARAM  uhys1=0.2 vref1=1.216 ehys1=0.8 ttrn1=50u rout1=10m psrr=3m uvlo=-0.2
+  zero1=300k rinp1=1e7 venb=0 pole1=500 ilim=-1.2 ilim1=1.2 pole=8k venb1=1.2
+  zero=300k rinp=1e7 uvlo1=2.6 psrr1=562u ttrn=60u rout=1m vref=-1.216 ehys=0
+  drop=0 uhys=0
.ENDS LM27762_TRANS
*$
.subckt NEG_LDO_u3_S2 1 2 3 4  
S_u3_S2         3 4 1 2 _u3_S2
RS_u3_S2         1 2 1G
.MODEL         _u3_S2 VSWITCH Roff=2 Ron=50 Voff=0.1V Von=0.5V
.ends NEG_LDO_u3_S2
*$
.subckt NEG_LDO_u3_F1 1 2 3 4  
F_u3_F1         3 4 VF_u3_F1 1
VF_u3_F1         1 2 0V
.ends NEG_LDO_u3_F1
*$
.subckt NEG_LDO_u3_H1 1 2 3 4  
H_u3_H1         3 4 VH_u3_H1 1
VH_u3_H1         1 2 0V
.ends NEG_LDO_u3_H1
*$
.subckt SWITCH_ARRAY_U_SW_ARRAY_S14 1 2 3 4  
S_U_SW_ARRAY_S14         3 4 1 2 _U_SW_ARRAY_S14
RS_U_SW_ARRAY_S14         1 2 1G
.MODEL         _U_SW_ARRAY_S14 VSWITCH Roff=1e12 Ron=215m Voff=0.2V Von=0.8V
.ends SWITCH_ARRAY_U_SW_ARRAY_S14
*$
.subckt SWITCH_ARRAY_U_SW_ARRAY_S15 1 2 3 4  
S_U_SW_ARRAY_S15         3 4 1 2 _U_SW_ARRAY_S15
RS_U_SW_ARRAY_S15         1 2 1G
.MODEL         _U_SW_ARRAY_S15 VSWITCH Roff=1e9 Ron=10m Voff=0.0V Von=1.0V
.ends SWITCH_ARRAY_U_SW_ARRAY_S15
*$
.subckt SWITCH_ARRAY_U_SW_ARRAY_S11 1 2 3 4  
S_U_SW_ARRAY_S11         3 4 1 2 _U_SW_ARRAY_S11
RS_U_SW_ARRAY_S11         1 2 1G
.MODEL         _U_SW_ARRAY_S11 VSWITCH Roff=1e12 Ron=300m Voff=0.2V Von=0.8V
.ends SWITCH_ARRAY_U_SW_ARRAY_S11
*$
.subckt SWITCH_ARRAY_U_SW_ARRAY_S12 1 2 3 4  
S_U_SW_ARRAY_S12         3 4 1 2 _U_SW_ARRAY_S12
RS_U_SW_ARRAY_S12         1 2 1G
.MODEL         _U_SW_ARRAY_S12 VSWITCH Roff=1e12 Ron=300m Voff=0.2V Von=0.8V
.ends SWITCH_ARRAY_U_SW_ARRAY_S12
*$
.subckt SWITCH_ARRAY_U_SW_ARRAY_S13 1 2 3 4  
S_U_SW_ARRAY_S13         3 4 1 2 _U_SW_ARRAY_S13
RS_U_SW_ARRAY_S13         1 2 1G
.MODEL         _U_SW_ARRAY_S13 VSWITCH Roff=1e12 Ron=300m Voff=0.2V Von=0.8V
.ends SWITCH_ARRAY_U_SW_ARRAY_S13
*$
.subckt POS_LDO_U8_S2 1 2 3 4  
S_U8_S2         3 4 1 2 _U8_S2
RS_U8_S2         1 2 1G
.MODEL         _U8_S2 VSWITCH Roff=2 Ron=20 Voff=0.1V Von=0.5V
.ends POS_LDO_U8_S2
*$
.subckt POS_LDO_U8_F1 1 2 3 4  
F_U8_F1         3 4 VF_U8_F1 1
VF_U8_F1         1 2 0V
.ends POS_LDO_U8_F1
*$
.subckt LM27762_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=1 Voff=0 Von=0.5
.ends LM27762_S1
*$
.subckt LM27762_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=35k Voff=0.0V Von=1.0V
.ends LM27762_S2
*$
.subckt OSCILATOR_U_osc_S26 1 2 3 4  
S_U_osc_S26         3 4 1 2 _U_osc_S26
RS_U_osc_S26         1 2 1G
.MODEL         _U_osc_S26 VSWITCH Roff=100e6 Ron=1.0 Voff=0.2 Von=0.8
.ends OSCILATOR_U_osc_S26
*$*******************************************************************
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5.0n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.subckt rvar 101 102 201 202 Params: Rref=1
* nodes : 101 102 : nodes between which variable resistance is placed
* 201 202 : nodes to whose voltage the resistance is proportional
* parameters : rref : reference value of the resistance
rin 201 202 1G; input resistance
r 301 0 {rref}
fcopy 0 301 vsense 1; copy output current thru Z
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1; multiply VoverZ with Vctrl
vsense 106 102 0; sense iout
.ends
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT freq_Current  Vin  Vo             
E_Current  Vo 0 VALUE = {IF (V(Vin) < 2.7, 10u ,
+ IF (V(Vin) < 5.1 & V(Vin) > 2.7, (-(70e-9)*V(Vin)+10e-6),
+ IF (V(Vin) > 5.1 ,((166.66e-9)*V(Vin)+9.875e-6) , 9.875u ) ) ) }
.ENDS freq_Current
*$

.SUBCKT DFFSR_RHPBASIC_GEN Q QB CLK D R S PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}  
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S) > {VTHRESH},5, IF(V(CLKint)> {VTHRESH}, 
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.IC V(Qint) {VSS}
.ENDS DFFSR_RHPBASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
*$
.model NMOS_SIMPLE NMOS
+ VTO     = 0
+ KP      = 1e6
+ LAMBDA  = 0.001
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
*$
**Set has higher priority in this latch
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n 
.IC V(Qint) {VSS}
.ENDS SRLATCHSHP_BASIC_GEN
*$
.SUBCKT XOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE  YINT 0 VALUE {{IF(V(A) > {VTHRESH}  ^  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS XOR2_BASIC_GEN
*$
.subckt D_DBACK 1 2 
D1 1 2 D_DB
.MODEL D_DB D( Rs=0.001 N=0.001)
.ends
*$